US07884210B2
4-(Methanesulfonyl)aniline hydrochloride (19 mmol) suspended in 25 mL of Et2O was added Et3N (48 mmol) and then a solution cyclopentanecarbonyl chloride (19 mmol) in 25 mL of Et2O was added dropwise during in 10 min. The reaction mixture was stirred for 3 h at RT and then diluted with EtOAc (100 mL) washed with 1N aq HCl, water and aq sat NaHCO3. The organic phase was dried and concentrated in vacuo to give crude cyclopentanecarboxylic acid (4-methanesulfonyl-phenyl)-amide which was used without further purification.

reactant | 4-(Methanesulfonyl)aniline hydrochloride | 19 mmol | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | Et3N | 48 mmol | CCN(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 19 mmol | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | cyclopentanecarboxylic acid (4-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1CCCC1 | C13H17NO3S
